US07259266B2
Step 3: Preparation of ethyl 9-chloro-6-(trifluoromethyl)-6H-[1,3]dioxolo[4,5-g]chromene-7-carboxylate
To a solution of ethyl 6-(trifluoromethyl)-6H-[1,3]dioxolo[4,5-g]chromene-7-carboxylate (500 mg, 1.58 mmoles) in 6 mL of TFA was added a solution of Cl2 6 mL, 0.28M) in TFA. After 30 min, another 6 mL of Cl2 solution was added and stirring continued. Zn dust (1.00 g, 15.3 mg-atm) was added, and stirred overnight. After concentration, the residue was chromatographed over silica gel using 20% EtOAc—hexane as eluent to give the title compound, 460 mg, as a yellow solid.

reactant | ethyl 6-(trifluoromethyl)-6H-[1,3]dioxolo[4,5-g]chromene-7-carboxylate | 1.58 mmoles, 500 mg | FC(C1OC=2C=C3C(=CC2C=C1C(=O)OCC)OCO3)(F)F | C14H11F3O5
reactant | Cl2 | 0.28M, 6 mL | ClCl | Cl2
reactant | Cl2 | 6 mL | ClCl | Cl2
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Zn | 1.00 g | [Zn] | Zn
product | ethyl 9-chloro-6-(trifluoromethyl)-6H-[1,3]dioxolo[4,5-g]chromene-7-carboxylate | ClC=1C=2C=C(C(OC2C=C2C1OCO2)C(F)(F)F)C(=O)OCC | C14H10ClF3O5
